US09085517B2
4-{[(5-chloro-6-isopropoxypyridin-3-yl)oxy]methyl}-2,5-difluorobenzoic acid
To a solution of ethyl 4-{[(5-chloro-6-isopropoxypyridin-3-yl)oxy]methyl}-2,5-difluorobenzoate (Preparation 14, 400 mg, 1.03 mmol) in a mixture tetrahydrofuran/methanol (1/1 10 mL) was added an aqueous solution of sodium hydroxide (2M, 2.6 mL, 5.15 mmol). The reaction was stirred at room temperature for 2 hours and diluted with ethyl acetate (20 mL). An aqueous solution of hydrochloric acid (2M, 10 mL) was added to pH 1. The organic phase was extracted with ethyl acetate (2×10 mL) and the combined organic layers were washed with brine (20 mL), dried over magnesium sulfate, filtered and the solvent removed in vacuo to afford the title compound as a colourless oil (240 mg, 94% over two steps). No further purification undertaken.

reactant | ethyl 4-{[(5-chloro-6-isopropoxypyridin-3-yl)oxy]methyl}-2,5-difluorobenzoate | 1.03 mmol, 400 mg | ClC=1C=C(C=NC1OC(C)C)OCC1=CC(=C(C(=O)OCC)C=C1F)F | C18H18ClF2NO4
reactant | tetrahydrofuran methanol | 10 mL | O1CCCC1.CO
reactant | sodium hydroxide | 5.15 mmol, 2M, 2.6 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2M, 10 mL | Cl | ClH
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 4-{[(5-chloro-6-isopropoxypyridin-3-yl)oxy]methyl}-2,5-difluorobenzoic acid | 240 mg, 94% | ClC=1C=C(C=NC1OC(C)C)OCC1=CC(=C(C(=O)O)C=C1F)F | C16H14ClF2NO4
